US06380218B1
N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-(1-oxo-indan-4-yloxy)-nicotinamide
To a solution of 2-(1-Oxo-indan-4-ylmethoxy)-nicotinic acid (0.220 grams, 0.818 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.128 grams, 0.779 mmole), and 1-hydroxybenzotriazole hydrate (0.116 grams, 0.857 mmole) in dry dimethylformamide (30 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.1795 grams, 0.935 mmole) and stirred over night. The mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica eluting with 60% ethyl acetate/hexane to give a yellow solid. (0.078 g). M.P. 145-147° C.; Anal. calcd. for C25H24N2O4: C, 72.10; H, 5.81; N, 6.73. Found: C, 71.79; H, 5.67; N, 6.61.

reactant | 2-(1-Oxo-indan-4-ylmethoxy)-nicotinic acid | 0.818 mmole, 0.220 grams | O=C1CCC2=C(C=CC=C12)COC1=C(C(=O)O)C=CC=N1 | C16H13NO4
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 0.779 mmole, 0.128 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 0.857 mmole, 0.116 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 0.935 mmole, 0.1795 grams | Cl.C(C)N=C=N
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-(1-oxo-indan-4-yloxy)-nicotinamide | OC(C)(C)C1=CC=C(CNC(C2=C(N=CC=C2)OC2=C3CCC(C3=CC=C2)=O)=O)C=C1 | C25H24N2O4
